US05885990
Preparation of 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthyl 4-aminoiminomethylaminobenzoate.
3 Milliliters of anhydrous pyridine was added to 418 mg of 4-aminoiminomethylaminobenzoic acid.methanesulfonate, 500 mg of 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol.hydrochloride, 400 mg of DCC and 18 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 24 hours at room temperature. Then, the precipitate was collected by filtration and dissolved with addition of 20 ml of warm DMF, followed by stirring for 1 hour under cooling with ice. The precipitate was filtered and the filtrate was added dropwise to 400 ml of ether, followed by stirring for 24 hours under cooling with ice. The precipitate was collected by filtration and dissolved with addition of 20 ml of water, and the solution was added dropwise to 100 ml of aqueous sodium bicarbonate solution, followed by stirring for 2 hours under cooling with ice. Then, the precipitate was collected by filtration and washed with small amounts of water and acetone. This was added to a solution comprising 20 ml of DMF and 0.36 ml of methanesulfonic acid. The resulting solution was added dropwise to 450 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 312.5 mg of the desired product.

reactant | 4-aminoiminomethylaminobenzoic acid | 418 mg | NN=CNC1=CC=C(C(=O)O)C=C1 | C8H9N3O2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthol.hydrochloride | 500 mg | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)C(=O)OCC(N(C)C)=O)O
reactant | DCC | 400 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 18 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-dimethylcarbamoylmethoxycarbonyl-2-naphthyl 4-aminoiminomethylaminobenzoate | 312.5 mg | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)C(=O)OCC(N(C)C)=O)C=C1 | C24H24N6O5
